US05763552
A mixture of ethyl 2-trifluoromethyl-2,5,5,6,6,7,7,8,8,8-decafluoro-octanoate (14.8 g, 0.035 mol), sodium hydroxide (1.64 g, 0.041 mol), water (25 mL) and methanol (25 mL) was stirred at ambient temperature for 2 hr and at 60° C. for 2 hr. After cooling, ethyl acetate was added to extract the product. The organic layer was separated, washed with brine, and dried over magnesium sulfate, and then the solvent was removed in vacuo. After drying overnight under high vacuum, the sodium 2-trifluoromethyl-2,5,5,6,6,7,7,8,8,8-decafluorooctanoate salt product, formula above, was obtained as a white to light brown low melting point solid in almost quantitative yield.

reactant | ethyl 2-trifluoromethyl-2,5,5,6,6,7,7,8,8,8-decafluoro-octanoate | 0.035 mol, 14.8 g | FC(C(C(=O)OCC)(CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)F)(F)F | C11H9F13O2
reactant | sodium hydroxide | 0.041 mol, 1.64 g | [OH-].[Na+]
reactant | water | 25 mL | O | H2O
reactant | methanol | 25 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | sodium 2-trifluoromethyl-2,5,5,6,6,7,7,8,8,8-decafluorooctanoate salt | quantitative yield | FC(C(C(=O)[O-])(CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)F)(F)F.[Na+] | InChI=1S/C9H5F13O2.Na/c10-4(3(23)24,8(17,18)19)1-2-5(11,12)6(13,14)7(15,16)9(20,21)22;/h1-2H2,(H,23,24);/q;+1/p-1
